US04939172
Preparation 2: α-cyano-4-methyl-2,3,5,6-tetrafluoro-benzyl alcohol
1.66 g of sodium cyanide were introduced into a mixture of 4 g of 4-methyl-2,3,5,6-tetrafluorobenzaldehyde, 4 g of 4-methyl-2,3,5,6-tetrafluorobenzaldehyde, 70 ml of methyl alcohol and 20 ml of water and the mixture was cooled to 0° C. The reaction mixture was stirred for 1 hour at 0° C. and was poured into water. Extraction was carried out with ether and the ethereal phases were dried and evaporated to dryness under reduced pressure to obtain 4.54 g of the product melting at 124° C.

reactant | sodium cyanide | 1.66 g | [C-]#N.[Na+]
reactant | 4-methyl-2,3,5,6-tetrafluorobenzaldehyde | 4 g | CC1=C(C(=C(C=O)C(=C1F)F)F)F | C8H4F4O
reactant | 4-methyl-2,3,5,6-tetrafluorobenzaldehyde | 4 g | CC1=C(C(=C(C=O)C(=C1F)F)F)F | C8H4F4O
reactant | methyl alcohol | 70 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | α-cyano-4-methyl-2,3,5,6-tetrafluoro-benzyl alcohol | 4.54 g | C(#N)C(C1=C(C(=C(C(=C1F)F)C)F)F)O | C9H5F4NO
